US09024027B2
Step 4. Preparation of, (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-methoxy-1,3-dioxoisoindolin-2-yl)acetoxy)-ethyl)pyridine 1-oxide (68)
To a solution of 2-(4-methoxy-1,3-dioxoisoindolin-2-yl)acetic acid (30 mg, 0.128 mmol) in DCM (3 ml), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (53.6 mg, 0.128 mmol), EDC (73.4 mg, 0.383 mmol) and DMAP (15.58 mg, 0.128 mmol) were added, and the mixture was reacted overnight at room temperature. The solvent was removed, and the resulting crude was purified by flash chromatography on silica gel (DCM:MeOH=98:2) recovering the title compound (33.7 mg, 0.053 mmol, 41% yield). MS/ESI+ 637.34 [MH]+; [αD]=−12.96, c=0.25 in DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.43 (s, 2H), 7.85 (dd, 1H), 7.54 (d, 1H), 7.46 (dd, 1H), 7.18 (d, 1H), 7.06 (d, 1H), 6.95 (dd, 1H), 7.08 (t, 1H), 5.99 (dd, 1H), 4.36 (s, 2H), 3.99 (s, 3H), 3.94 (dd, 1H), 3.90 (dd, 1H), 3.38 (dd, 1H), 3.22 (dd, 1H), 1.07-1.36 (m, 1H), 0.50-0.68 (m, 2H), 0.24-0.45 (m, 2H).

reactant | 2-(4-methoxy-1,3-dioxoisoindolin-2-yl)acetic acid | 0.128 mmol, 30 mg | COC1=C2C(N(C(C2=CC=C1)=O)CC(=O)O)=O | C11H9NO5
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.128 mmol, 53.6 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.383 mmol, 73.4 mg
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.128 mmol, 15.58 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-methoxy-1,3-dioxoisoindolin-2-yl)acetoxy)-ethyl)pyridine 1-oxide | 0.053 mmol, 33.7 mg, 41% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=CC(=C2C1=O)OC)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H24Cl2F2N2O8
